US04509972
0.88 g (0.005 mol) of 2-amino-4-methoxypteridine and 1.30 g (0.0052 mol) of 2-trifluoromethylphenylsulfonyl isocyanate were reacted in 40 ml of methylene chloride according to Example 4 to obtain 2.0 g (94% of theory) of N-4-methoxypteridin-2-yl)-N'-(2-trifluoromethylphenylsulfonyl)-urea in the form of light yellow crystals melting at 187° C.

reactant | 2-amino-4-methoxypteridine | 0.005 mol, 0.88 g | NC1=NC2=NC=CN=C2C(=N1)OC | C7H7N5O
reactant | 2-trifluoromethylphenylsulfonyl isocyanate | 0.0052 mol, 1.30 g | FC(C1=C(C=CC=C1)S(=O)(=O)N=C=O)(F)F | C8H4F3NO3S
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | N'-(2-trifluoromethylphenylsulfonyl)-urea | FC(C1=C(C=CC=C1)S(=O)(=O)NC(N)=O)(F)F | C8H7F3N2O3S
